US07671060B2
3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-N-(5-methylpyrazin-2-yl)-5-phenylmethoxy-benzamide
1-Chloro-N,N,2-trimethyl-prop-1-en-1-amine (0.26 mL, 2.0 mmol) was added to a solution of 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-phenylmethoxy-benzoic acid (0.54 g, 1.5 mmol) in DCM (20 mL) and stirred for 1 hour. 5-Methylpyrazin-2-amine (CAS no. 5521-58-4) (335 mg, 3.1 mmol) then pyridine (0.25 mL, 3.1 mmol) were added and the reaction stirred for a further 30 minutes before being reduced in vacuo and partitioned between ethyl acetate (50 mL) and water (50 mL). The aqueous layer was further extracted into ethyl acetate (50 mL) and the combined organics washed with water (50 mL), brine (50 mL), dried (MgSO4), and reduced in vacuo. The crude residue was chromatographed on silica, eluting with 40-100% ethyl acetate in isohexane, to give the desired compound (0.48 g).

reactant | 1-Chloro-N,N,2-trimethyl-prop-1-en-1-amine | 2.0 mmol, 0.26 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-phenylmethoxy-benzoic acid | 1.5 mmol, 0.54 g | FC(OC[C@H](C)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1)F | C18H18F2O5
reactant | 5-Methylpyrazin-2-amine | CC=1N=CC(=NC1)N | C5H7N3
reactant | pyridine | 3.1 mmol, 0.25 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-N-(5-methylpyrazin-2-yl)-5-phenylmethoxy-benzamide | 0.48 g | FC(OC[C@H](C)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OCC1=CC=CC=C1)F | C23H23F2N3O4
